Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: ORTHOPAEDICS
 
Allergies: 
lactose
 
Attending: ___.
 
Chief Complaint:
Left leg pain
 
Major Surgical or Invasive Procedure:
L distal tibia ORIF ___

 
History of Present Illness:
This is a new office visit for Mrs. ___ healthy 
___ female patient, who used to be a ___, who was 
injured ___ while snowboarding.  Ms. ___ 
comes to see me today regarding a fairly complex tibia fracture 
of her left lower extremity.  Plain films obtained today confirm 
a comminuted distal tibia fracture extending fairly distal 
almost to approximately a centimeter above the plafond with a 
fibular fracture that is segmental both proximal and distal as 
well. We have placed her in a long leg cast with 30 degrees of 
flexion to allow her to clear the ground as she ambulates.  We 
will for surgery on ___ morning most likely for 
percutaneous minimally invasive plating given the distal nature 
of her fracture would make a tibial nail fairly difficult to 
achieve appropriate stable and fixation. 
 
Past Medical History:
Mrs. ___ is healthy.  She has a history of allergies and I 
have reviewed her past medical history is noted in the chart, 
none of it directly relevant to her presnt musculoskeletal 
presentation. 
 
Social History:
___
Family History:
NC
 
Physical Exam:
Mrs. ___ presents today in a posterior splint and we have 
examined her out of her splint and her skin is intact without 
any evidence of open fracture.  Her extremity is well perfused 
and sensory intact.
 
Pertinent Results:
See OMR.
 
Brief Hospital Course:
The patient presented to the emergency department and was 
evaluated by the orthopedic surgery team. The patient was found 
to have a left distal tibia fracture and was admitted to the 
orthopedic surgery service.  The patient was taken to the 
operating room on ___ for ORIF left distal tibia fracture, 
which the patient tolerated well (for full details please see 
the separately dictated operative report). The patient was taken 
from the OR to the PACU in stable condition and after recovery 
from anesthesia was transferred to the floor.  

Musculoskeletal: Prior to operation, patient was NWB LLE.   
After procedure, patient's weight-bearing status was 
transitioned to TDWB LLE in splint.  Throughout the 
hospitalization, patient worked with physical therapy.

Neuro: Post-operatively, patient's pain was controlled by IV 
pain medication and was subsequently transitioned to oxycodone 
with good effect and adequate pain control.

CV: The patient was stable from a cardiovascular standpoint; 
vital signs were routinely monitored.

Hematology:  The patient was transfused not blood.

Pulmonary: The patient was stable from a pulmonary standpoint; 
vital signs were routinely monitored.

GI/GU:  A po diet was tolerated well. Patient was also started 
on a bowel regimen to encourage bowel movement. Intake and 
output were closely monitored.

ID: The patient received perioperative antibiotics.  The 
patient's temperature was closely watched for signs of 
infection.

Prophylaxis: The patient received enoxaparin during this stay, 
and was encouraged to get up and ambulate as early as possible.

At the time of discharge on ___,  POD #1, the patient was 
doing well, afebrile with stable vital signs, tolerating a 
regular diet, ambulating, voiding without assistance, and pain 
was well controlled.  The incision was clean, dry, and intact 
without evidence of erythema or drainage; the extremity was NVI 
distally throughout.  The patient was given written instructions 
concerning precautionary instructions and the appropriate 
follow-up care. The patient will be continued on chemical DVT 
prophylaxis for 2 weeks post-operatively.  All questions were 
answered prior to discharge and the patient expressed readiness 
for discharge.
 
Medications on Admission:
See OMR.
 
Discharge Medications:
1. Acetaminophen 650 mg PO Q6H 
2. Adderall (dextroamphetamine-amphetamine) 10 mg oral BID ADHD 
3. BuPROPion (Sustained Release) 150 mg PO BID 
4. BusPIRone 15 mg PO BID 
5. Duloxetine 60 mg PO DAILY 
6. Gabapentin 600 mg PO TID 
7. Topiramate (Topamax) 50 mg PO QPM 
8. Vyvanse (lisdexamfetamine) 60 mg oral QD 
9. Enoxaparin Sodium 40 mg SC QPM Duration: 14 Days 
Start: Today - ___, First Dose: Next Routine Administration 
Time 
RX *enoxaparin 40 mg/0.4 mL 1 syringe SC QPM Disp #*14 Syringe 
Refills:*0
10. OxycoDONE (Immediate Release)  ___ mg PO Q4H:PRN pain 
RX *oxycodone 5 mg ___ tablet(s) by mouth every four (4) hours 
Disp #*100 Tablet Refills:*0
11. HYDROmorphone (Dilaudid) ___ mg PO Q3H:PRN pain 
12. Polyethylene Glycol 17 g PO DAILY:PRN constipation 
13. Senna 8.6 mg PO BID 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Left distal tibia fracture

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
MEDICATIONS:
- Please take all medications as prescribed by your physicians 
at discharge.
- Continue all home medications unless specifically instructed 
to stop by your surgeon.
- Do not drink alcohol, drive a motor vehicle, or operate 
machinery while taking narcotic pain relievers.
- Narcotic pain relievers can cause constipation, so you should 
drink eight 8oz glasses of water daily and take a stool softener 
(colace) to prevent this side effect.

ANTICOAGULATION:
- Please take lovenox 40mg daily for 2 weeks

WOUND CARE:
- No baths or swimming for at least 4 weeks.
- Any stitches or staples that need to be removed will be taken 
out at your 2-week follow up appointment.
- No dressing is needed if wound continues to be non-draining.
- Splint must be left on until follow up appointment unless 
otherwise instructed
- Do NOT get splint wet

ACTIVITY AND WEIGHT BEARING:
- TDWB LLE
Physical Therapy:
- TDWB LLE in splint
Treatments Frequency:
- No baths or swimming for at least 4 weeks.
- Any stitches or staples that need to be removed will be taken 
out at your 2-week follow up appointment.
- No dressing is needed if wound continues to be non-draining.
- Splint must be left on until follow up appointment unless 
otherwise instructed
- Do NOT get splint wet
 
Followup Instructions:
___